US07342138B2
In the same manner as in Example 3, the operation was conducted, except that 0.53 g (2 mmols) of bismethoxymethylbiphenyl was used in place of m-methoxybenzyl alcohol and also 0.2 g (1.35 mmols) of sodium bromate was used. With respect to the components in the reaction solution, 4,4′-bisformylbiphenyl was produced in an area ratio, as determined by gas chromatography, of 93.3% and 6.7% of bismethoxymethylbiphenyl as a raw material was remained.

reactant | bismethoxymethylbiphenyl | 2 mmols, 0.53 g | COCC1=CC=C(C=C1)C1=CC=C(C=C1)COC | C16H18O2
reactant | sodium bromate | 1.35 mmols, 0.2 g | Br(=O)(=O)[O-].[Na+]
product | 4,4′-bisformylbiphenyl | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H10O2
